US07470679B2
1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid
Isonipecotic acid (1.05 g, 8.1 mmol) was suspended in a mixture of tetrahydrofuran (20 mL) and 1N sodium hydroxide (20 mL). Di-tert-butyl dicarbonate was added to the mixture. Reaction stirred at room temperature for 2.5 hours. Mixture was made acidic with 1N hydrochloric acid. Mixture was extracted 2× ethyl acetate. Combined organics were washed with brine and then dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as white solid in 94% yield. MS m/e (M−H)−=228.0.

reactant | Isonipecotic acid | 8.1 mmol, 1.05 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
product | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 94% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
